US08877815B2
A solution of (S)-3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoic acid (201.7 mg, 0.476 mmol), (S)-benzyl pyrrolidine-2-carboxylate hydrochloride (138 mg, 0.572 mmol), WSC.HCl (137 mg, 0.714 mmol), DIPEA (0.125 ml, 0.714 mmol) and 1-hydroxy-7-azabenzotriazole (97 mg, 0.714 mmol) in DMF (2 ml) was allowed to stir at room temperature under nitrogen for 14 hours. The reaction was quenched with H2O. The products were extracted with EtOAc. The organic layer was washed with NH4Claq, 0.1 M HCl (twice) and then brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (heptane/EtOAc=100:0 to 0:100) to give (S)-benzyl 1-((S)-3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoyl)pyrrolidine-2-carboxylate (243 mg); Retention time=1.74 minutes (condition B); MS (m+1)=611.2; 1H NMR (400 MHz, CD3CN, mixture of rotamers) δ ppm 0.91-1.06 (m, 3H) 1.33-1.42 (m, 6H) 1.55-2.09 (m, 6H) 2.25-2.42 (m, 2H) 2.57-2.93 (m, 2H) 3.06-3.59 (m, 2H) 3.75-3.91 (m, 2H) 4.14-4.61 (m, 2H) 4.68-5.09 (m, 3H) 6.40-6.52 (m, 1H) 7.00-7.45 (m, 14H).

reactant | (S)-3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoic acid | 0.476 mmol, 201.7 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C1(CCCC1)CC(=O)OCC)C1=CC=CC=C1 | C25H29NO5
reactant | (S)-benzyl pyrrolidine-2-carboxylate hydrochloride | 0.572 mmol, 138 mg | Cl.N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1
reactant | WSC.HCl | 0.714 mmol, 137 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.714 mmol, 0.125 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.714 mmol, 97 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-benzyl 1-((S)-3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoyl)pyrrolidine-2-carboxylate | 243 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)NC(=O)C1(CCCC1)CC(=O)OCC)C1=CC=CC=C1 | C37H42N2O6
